US07160732B2
a) 2′-Carboxy-5-chloro-2,4-dihydroxybenzophenone
AlCl3 (40.0 g, 300 mmol) was added to a solution of phthalic anhydride (20.0 g, 135 mmol) and 4-chlororesorcinol (18.8 g, 130 mmol) in 225 ml nitrobenzene and purged with N2. After stirring overnight, the solution was poured into a vigorously stirred biphasic solution of 750 ml hexanes and 1.0 L 0.5 M aqueous HCl. The solution was allowed to stir for 2 h and the light tan precipitate that formed was filtered and washed with 200 ml aqueous 0.1 M HCl and 300 ml hexanes. The crude product was crystallized from hot MeOH/H2O (12.1 g, 32%). 1H NMR (CD3OD) δ 6.48 (1H, s), 6.95 (1H, s), 7.39 (1H, dd, J=7.2 1.5), 7.62–7.52 (2H, m), 8.12 (1H, dd, J=1.2, 7.8).

reactant | AlCl3 | 300 mmol, 40.0 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | phthalic anhydride | 135 mmol, 20.0 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | 4-chlororesorcinol | 130 mmol, 18.8 g | ClC1=C(C=C(O)C=C1)O | C6H5ClO2
solvent | nitrobenzene | 225 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 2′-Carboxy-5-chloro-2,4-dihydroxybenzophenone | C(=O)(O)C1=C(C=CC=C1)C(C1=C(C=C(C(=C1)Cl)O)O)=O | C14H9ClO5
